US07635715B2
Step F: Preparation of 1,1-Dimethylethyl N-((6,7-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
Ethyl 6,7-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (325 mg, 987 μmol) was dissolved in 1,4-dioxane (987 μL) and N-ethyl-N-isopropylpropan-2-amine (516 μL, 2962 μmol). tert-Butyl 2-aminoacetate hydrochloride (248 mg, 1481 μmol) was added, and the reaction was stirred at 80° C. for 4 hours. The reaction mixture was then diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 20 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (235 mg) as an off-white solid after purification via preparatory LC. MS (m/z)=358(M+H-tBu)+.

reactant | Ethyl 6,7-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 987 μmol, 325 mg | ClC=1C=C2C(=C(C(C(C2=CC1Cl)(C)C)=O)C(=O)OCC)O | C15H14Cl2O4
reactant | N-ethyl-N-isopropylpropan-2-amine | 2962 μmol, 516 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 2-aminoacetate hydrochloride | 1481 μmol, 248 mg | Cl.NCC(=O)OC(C)(C)C
solvent | 1,4-dioxane | 987 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((6,7-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 235 mg | ClC=1C=C2C(=C(C(C(C2=CC1Cl)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H21Cl2NO5
